US04328341
(b) 4,6-Diacetyl-3-aminophenol
3-Acetamido-4,6-diacetylphenol (250 g) was suspended in ethanol (2 l) containinc conc. hydrochloric acid (200 ml) and heated on a steam bath for 5 hours. The mixture was allowed to cool, and the crystalline product isolated by filtration. Yield 91%, mp 227°-230° C.

reactant | 3-Acetamido-4,6-diacetylphenol | 250 g | C(C)(=O)NC=1C=C(C(=CC1C(C)=O)C(C)=O)O | C12H13NO4
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | ethanol | 2 l | C(C)O | C2H6O
product | 4,6-Diacetyl-3-aminophenol | Yield 91% | C(C)(=O)C1=C(C=C(C(=C1)C(C)=O)O)N | C10H11NO3
